US06492383B1
(1H-Indol-5-yl)-[2-(4-methoxy-phenyl)-thieno[3,2-b]pyridin-7-yl]-amine
The title compound was prepared from 4-methoxybenzeneboronic acid and (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 17. 1H NMR (400 MHz, DMSO) d 11.3 (s, 1H), 10.6 (s, 1H), 8.21 (d, 1H), 7.65 (m, 5H), 7.00 (m, 5H), 6.43 (d, 1H), 3.80 (s, 3H); LC-MS: 372 (MH+); HPLC RT: 5.45 minutes.

reactant | 4-methoxybenzeneboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=CNC2=CC1 | C15H10BrN3S
product | (1H-Indol-5-yl)-[2-(4-methoxy-phenyl)-thieno[3,2-b]pyridin-7-yl]-amine | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=C2)OC | C22H17N3OS
